US07429581B2
(i) 1-[5-(5-Chloro-thiophen-2-yl)-isoxazol-3-ylmethyl]-5-hydroxymethyl-1H-pyrazole-3-carboxylic acid ethyl ester
To a solution of 4 g 1-[5-(5-Chloro-thiophen-2-yl)-isoxazol-3-ylmethyl]-1H-pyrazole-3,5-dicarboxylic acid 3-ethyl ester in 50 ml THF 26 ml BH3*THF (1M in THF) were added slowly at RT. Then the mixture was warmed to 40° C. for 6h. After cooling to 0° C. 20 ml MeOH were added cautiously and the mixture was concentrated to dryness. The residue was again codistilled with 20 ml of MeOH and then purified by chromatography on silica gel eluting with n-heptane/ethyl acetate. The fractions containing the product were combined and the solvent evaporated under reduced pressure. Yield: 1.9 g.

reactant | 1-[5-(5-Chloro-thiophen-2-yl)-isoxazol-3-ylmethyl]-1H-pyrazole-3,5-dicarboxylic acid 3-ethyl ester | 4 g | C(C)OC(=O)C1=NN(C(=C1)C(=O)O)CC1=NOC(=C1)C=1SC(=CC1)Cl | C15H12ClN3O5S
reactant | MeOH | 20 ml | CO | CH4O
solvent | THF | 50 ml | C1CCOC1 | C4H8O
solvent | THF | 1M | C1CCOC1 | C4H8O
product | 1-[5-(5-Chloro-thiophen-2-yl)-isoxazol-3-ylmethyl]-5-hydroxymethyl-1H-pyrazole-3-carboxylic acid ethyl ester | C(C)OC(=O)C1=NN(C(=C1)CO)CC1=NOC(=C1)C=1SC(=CC1)Cl | C15H14ClN3O4S
